US09403760B2
1) Synthesis of (E)-tetradec-2-enoic acid
To a dry flask containing malonic acid (56.5 g) and pyridine (132 ml) was added dodecanal (100 g) dropwise to maintain the internal temperature under 35° C. under nitrogen atmosphere while stirring. After the addition, piperidine (4 ml) was added. The reaction mixture was then heated to 55° C. for 1 hr and 90° C. for 3 hrs. The mixture was cooled to room temperature and poured into ice-water (˜1 L). After the addition of 400 ml 6M HCl, the mixture was extracted with ethyl acetate (2 L). The ethyl acetate phase was washed with DI water twice. The solvent was removed under vacuum. The crude product was crystallized from hexane. The pure product was obtained as a white solid (80.5 g, 65.6% yield). Proton NMR(CDCl3) δ 0.88 (t, 3H), 1.26 (m, 16H), 1.45 (m, 2H), 2.22 (m, 2H), 5.82 (td, 1H), 7.09 (td, 1H).

reactant | malonic acid | 56.5 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | dodecanal | 100 g | C(CCCCCCCCCCC)=O | C12H24O
reactant | piperidine | 4 ml | N1CCCCC1 | C5H11N
reactant | HCl | 6M, 400 ml | Cl | ClH
solvent | pyridine | 132 ml | N1=CC=CC=C1 | C5H5N
product | (E)-tetradec-2-enoic acid | 80.5 g, 65.6% yield | C(\C=C\CCCCCCCCCCC)(=O)O | C14H26O2
